US04701459
1-Benzoyl-4-(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)piperazine
This compound, m.p. >300° C. (obtained as a methanol solvate by crystallization from dimethylformamidemethanol), was prepared analogous to Example 4 from 1-benzoyl-4-[3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]-4-nitrophenyl)piperazine.

reactant | 1-benzoyl-4-[3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]-4-nitrophenyl)piperazine | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])C=C1C(NC(N1)=O)=O | C21H19N5O5
solvent | methanol | CO | CH4O
product | 1-Benzoyl-4-(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)piperazine | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=CC=2C=C3C(=NC2C=C1)NC(N3)=O | C21H19N5O2
